US04625034
2-[3-(1-Hydroxyhexyl)phenoxymethyl]quinoline-N-oxide
A mixture of 5.0 g (0.015 mol) 2-[3-(1-hydroxyhexyl)phenoxymethyl]quinoline and 3.0 g (0.017 mol) m-chloroperoxybenzoic acid in 100 ml CH2Cl2 was stirred at room temperature for a period of 24 hours. The reaction mixture was extracted with dilute NaHCO3 solution, washed with water, dried over MgSO4 and concentrated to dryness under reduced pressure. The residue was triturated with large amounts of ether to obtain a solid. This solid was filtered, washed with ether and dried to give the desired compound (2 g).

reactant | 2-[3-(1-hydroxyhexyl)phenoxymethyl]quinoline | 0.015 mol, 5.0 g | OC(CCCCC)C=1C=C(OCC2=NC3=CC=CC=C3C=C2)C=CC1 | C22H25NO2
reactant | m-chloroperoxybenzoic acid | 0.017 mol, 3.0 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-[3-(1-Hydroxyhexyl)phenoxymethyl]quinoline-N-oxide | 2 g | OC(CCCCC)C=1C=C(OCC2=[N+](C3=CC=CC=C3C=C2)[O-])C=CC1 | C22H25NO3
